US07442794B2
(rac) 1,1,1,-Trifluoro-4-(4-chloro-2-methoxyphenyl)-2-[(8-fluoro-2-methyl-quinazol-5-yl)iminomethyl]-4-methyl-pentan-2-ol
2.40 g (7.39 mmol) of rac-4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal is dissolved with 1.30 g (7.34 mmol) of 5-amino-8-fluoro-2-methylquinazoline in 30 ml of toluene, and 3.10 ml (14.7 mmol) of titanium tetraethylate is added at room temperature. The mixture is stirred for 3 hours at 105° C. After cooling, the mixture is added to water, stirred for several minutes, suctioned off on diatomaceous earth, rewashed with ethyl acetate and water, and the phases are separated. The aqueous phase is extracted several times with ethyl acetate, and the combined organic phases are washed with saturated NaCl solution and dried with sodium sulfate. The solvent is removed in a rotary evaporator, and the crude product is chromatographed on silica gel (eluant hexane/ethyl acetate 4:1). 3.20 g (90%) of the desired compound is isolated.

reactant | rac-4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal | 7.39 mmol, 2.40 g | ClC1=CC(=C(C=C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
reactant | 5-amino-8-fluoro-2-methylquinazoline | 7.34 mmol, 1.30 g | NC1=C2C=NC(=NC2=C(C=C1)F)C | C9H8FN3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium | 14.7 mmol, 3.10 ml | [Ti] | Ti
product | (rac) 1,1,1,-Trifluoro-4-(4-chloro-2-methoxyphenyl)-2-[(8-fluoro-2-methyl-quinazol-5-yl)iminomethyl]-4-methyl-pentan-2-ol | 3.20 g, 90% | FC(C(CC(C)(C)C1=C(C=C(C=C1)Cl)OC)(O)C=NC1=C2C=NC(=NC2=C(C=C1)F)C)(F)F | C23H22ClF4N3O2
